US07348337B2
Preparation of 4-(1-Phenyl-1-(2,6-dimethoxypyridin-3-yl)-methylene)-piperidine-1-carboxylic acid tert-butyl ester:
To a solution of 2,6-dimethoxypyridine (0.211 g, 1.51 mmol) in dry THF (7 mL) at −78° C. under Ar was added n-BuLi (1.53 M in hexanes, 1.18 mL, 1.81 mmol) dropwise. After the addition, the mixture was stirred at 10° C. for 30 minutes and then it was re-cooled to −78° C. To this mixture was added a solution of (previously fused in vacuo) zinc bromide (0.407 g, 1.81 mmol) in THF (2 mL) and the reaction mixture was allowed to warm to ambient temperature. The resulting mixture was cannulated into a flame-dried flask containing 4-(1-bromo-1-phenyl-methylene)-piperidine-1-carboxylic acid tert-butyl ester (0.532 g, 1.51 mmol) and Pd(PPh3)4 under Ar. The vessel was sealed and the mixture was heated at 90° C. (oil bath temperature) for 4 h. The cooled mixture was then quenched with saturated NH4Cl and extracted with EtOAc. The organic phase was dried (MgSO4), filtered and concentrated to dryness. The residue was then purified by flash chromatography (SiO2/CH2Cl2-hexane, 7:3) to afford the title compound (0.295 g, 48%) as a yellow gum:

reactant | 2,6-dimethoxypyridine | 1.51 mmol, 0.211 g | COC1=NC(=CC=C1)OC | C7H9NO2
reactant | n-BuLi | 1.81 mmol, 1.53 M, 1.18 mL | [Li]CCCC
reactant | 4-(1-bromo-1-phenyl-methylene)-piperidine-1-carboxylic acid tert-butyl ester | 1.51 mmol, 0.532 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=C(C1=CC=CC=C1)Br | C17H22BrNO2
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
catalyst | zinc bromide | 1.81 mmol, 0.407 g | [Br-].[Zn+2].[Br-]
catalyst | Pd(PPh3)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(1-Phenyl-1-(2,6-dimethoxypyridin-3-yl)-methylene)-piperidine-1-carboxylic acid tert-butyl ester | 0.295 g, 48% | C(C)(C)(C)OC(=O)N1CCC(CC1)=C(C=1C(=NC(=CC1)OC)OC)C1=CC=CC=C1 | C24H30N2O4
